US09029388B2
B) 3-Bromo-2-ethyl-2H-pyrazolo[4,3-b]pyridine
To a solution of ethanol (0.118 ml) and triphenylphosphine (530 mg) in THF (3 ml) was added 3-bromo-1H-pyrazolo[4,3-b]pyridine (200 mg), and the mixture was heated at 50° C. A toluene solution (1.9 M, 1.06 ml) of DIAD was added dropwise at 50° C., and the mixture was stirred for 30 min. The reaction mixture was cooled to room temperature, water was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (71 mg).

reactant | ethanol | 0.118 ml | C(C)O | C2H6O
reactant | triphenylphosphine | 530 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromo-1H-pyrazolo[4,3-b]pyridine | 200 mg | BrC1=NNC=2C1=NC=CC2 | C6H4BrN3
reactant | DIAD | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | toluene | 1.9 M, 1.06 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-2-ethyl-2H-pyrazolo[4,3-b]pyridine | 71 mg | BrC=1N(N=C2C1N=CC=C2)CC | C8H8BrN3
